US04916135
N-(1H-Pyrrol-1-yl)-4-quinolinamine hydrochloride
A solution of 4-chloroquinoline (10 g) and 1-aminopyrrole (6 g) in 100 ml isopropanol containing 1 ml saturated ether/HCl was stirred at 80° for thirty minutes, and thereafter cooled, stirred with water, basified with sodium carbonate and extracted with dichloromethane. The organic extract was washed successively with water and saturated sodium chloride solution, dried (anhy. MgSO4), filtered and concentrated to 12 g of solid, m.p. 165°-168°. Four grams were converted to the hydrochloride salt and recrystallized twice from methanol/ether to give 2.9 g crystals, m.p. 233°-234°.

reactant | 4-chloroquinoline | 10 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 1-aminopyrrole | 6 g | NN1C=CC=C1 | C4H6N2
reactant | water | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | N-(1H-Pyrrol-1-yl)-4-quinolinamine hydrochloride | 2.9 g | Cl.N1(C=CC=C1)NC1=CC=NC2=CC=CC=C12 | InChI=1S/C13H11N3.ClH/c1-2-6-12-11(5-1)13(7-8-14-12)15-16-9-3-4-10-16;/h1-10H,(H,14,15);1H
